US07727985B2
A solution of 6-chloro-4-methyl-8-nitro-9H-β-carboline (80 mg, 0.31 mmol) in MeOH (10 ml) was stirred at RT. Platinum (10% wt. on carbon, 24 mg) catalyst was added thereto and the reaction vessel was capped and vacuum purged 3 times with argon, followed similarly by hydrogen. The reaction mixture was stirred 1.5 hr under 1 atm hydrogen, then vacuum purged with argon, diluted with DCM (10 ml) and filtered through a 0.2 uM syringe filter. The filtrate was concentrated to yield 6-chloro-4-methyl-9H-β-carbolin-8-ylamine (67 mg) as a light brown oil.

reactant | 6-chloro-4-methyl-8-nitro-9H-β-carboline | 0.31 mmol, 80 mg | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)[N+](=O)[O-])C | C12H8ClN3O2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Platinum | 24 mg | [Pt] | Pt
product | 6-chloro-4-methyl-9H-β-carbolin-8-ylamine | 67 mg | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)N)C | C12H10ClN3
